* Current Mirror
* DC simulation


* Netlist

.include (MOS_SPEC)

MN0 Vg    Vg VSS VSS nmos W=(MN0W) L=(MN0L)
MN1 Vout1 Vg VSS VSS nmos W=(MN1W) L=(MN1L)
MN2 Vout2 Vg VSS VSS nmos W=(MN2W) L=(MN2L)
MN3 Vout3 Vg VSS VSS nmos W=(MN3W) L=(MN3L)

R1  Vout1 VDD (R1)
R2  Vout2 VDD (R2)
R3  Vout3 VDD (R3)



* Simulation

.option TEMP=(TEMP)

Vpower  VDD  0  (VDD)
Vgnd    VSS  0  (VSS)
Vinput  Vg   0

.dc Vinput (Vin_min) (Vin_max) (Vin_step)

.control
    run
    wrdata (OUT_PATH) (OUT_DATA)
.endc

.END
