* Resistor Ladder
* DC simulation


* Netlist

.include (MOS_SPEC)

R0  VDD   Vout   (R0)
R1  Vin   Vout   (R1)
R2  VSS   Vout   (R2)


* Simulation

.option TEMP=(TEMP)

Vpower  VDD  0  (VDD)
Vgnd    VSS  0  (VSS)
Vinput  Vin  0

.dc Vinput (Vin_min) (Vin_max) (Vin_step)

.control
    run
    wrdata (OUT_PATH) (OUT_DATA)
.endc

.END
